US09416111B2
To a solution of oxalyl chloride (0.37 mL, 3.5 mmol) in dichloromethane (4.4 mL) cooled to −78° C. was added dropwise a solution of dimethylsulfoxide (0.55 mL, 7.1 mmoL) in dichloromethane (10.8 mL). After 5 min, a solution of ethyl rel-(1R,2S)-4-[(5-chloropyrimidin-2-yl)(hydroxy)methyl]-2-methylcyclohexanecarboxylate (1 g, 3.2 mmol) in dichloromethane (6.5 mL) was added. The reaction mixture was stirred for 15 minutes at −78° C. and triethylamine (2.2 mL, 16 mmol) was added in one portion. After stirring for 10 min at −78° C., the mixture was allowed to warm to room temperature and diluted with dichloromethane (50 mL). The organic layer was successively washed with a saturated aqueous ammonium chloride solution (30 mL) and brine (2×30 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by prep-TLC (ethyl acetate/petroleum ether) to give ethyl rel-(1R,2S)-4-[(5-chloropyrimidin-2-yl)carbonyl]-2-methylcyclohexanecarboxylate. MS ESI calc'd for C15H20ClN2O3[M+H]+ 311. found 311. 1H NMR: (400 MHz, CDCl3) δ. 8.88-8.84 (m, 2H), 4.17-4.10 (m, 2H), 2.71-2.48 (m, 2H), 2.14-2.01 (m, 1H), 1.90-1.73 (m, 5H), 1.53-1.41 (m, 1H), 1.28-1.24 (m, 3H), 1.06-0.99 (m, 3H).

reactant | oxalyl chloride | 3.5 mmol, 0.37 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 0.55 mL | CS(=O)C | C2H6OS
reactant | ethyl rel-(1R,2S)-4-[(5-chloropyrimidin-2-yl)(hydroxy)methyl]-2-methylcyclohexanecarboxylate | 3.2 mmol, 1 g | ClC=1C=NC(=NC1)C(C1C[C@@H]([C@@H](CC1)C(=O)OCC)C)O | C15H21ClN2O3
reactant | triethylamine | 16 mmol, 2.2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4.4 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10.8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | ethyl rel-(1R,2S)-4-[(5-chloropyrimidin-2-yl)carbonyl]-2-methylcyclohexanecarboxylate | ClC=1C=NC(=NC1)C(=O)C1C[C@@H]([C@@H](CC1)C(=O)OCC)C | C15H19ClN2O3
